US06239152B1
To the crude oxazolidinone amine residue 16a in DCM at room temperature was added pyridine (30 equivalents) and acetic anhydride (20 equivalents). The solution was stirred for 2 hrs and concentrated in vacuo. The oxazolidinone acetamide residue was purified by HPLC to provide pure oxazolidinone acetamide.

reactant | pyridine | 30 equivalents | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 20 equivalents | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | oxazolidinone acetamide | C(C)(=O)N.O1C(NCC1)=O | InChI=1S/C3H5NO2.C2H5NO/c5-3-4-1-2-6-3;1-2(3)4/h1-2H2,(H,4,5);1H3,(H2,3,4)
